US04366160
19.0 g of 2-[2,6-dichloro-3-methoxyphenyl)imino]-1-hydroxyimidazolidine hydrochloride are suspended in 160 ml of toluene. There are added thereto successively 40 ml of a 40 percent solution of tetra-n-butylammonium hydroxide, 12.2 g of 2-chloromethyl-pyridine N-oxide and 250 ml of a saturated potassium carbonate solution. After 4 hours, the precipitated material is removed by filtration, washed with water and subsequently with ether and recrystallized from chloroform and ethanol. There is obtained 2-([{2-[(2,6-dichloro-3-methoxyphenyl)-imino]-1-imidazolidinyl}oxy]methyl)-pyridine 1-oxide of melting point 199°-200° C. The corresponding dihydrobromide melts with decomposition at 192° (methanol/acetonitrile).

reactant | 1-hydroxyimidazolidine hydrochloride | Cl.ON1CNCC1
reactant | tetra-n-butylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-chloromethyl-pyridine N-oxide | 12.2 g | ClCC1=[N+](C=CC=C1)[O-] | C6H6ClNO
reactant | potassium carbonate | 250 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 2-([{2-[(2,6-dichloro-3-methoxyphenyl)-imino]-1-imidazolidinyl}oxy]methyl)-pyridine 1-oxide | ClC1=C(C(=CC=C1OC)Cl)N=C1N(CCN1)OCC1=[N+](C=CC=C1)[O-] | C16H16Cl2N4O3
